US07932401B2
12.4 Analogous reaction of 5-[5-iodo-2,4-dimethoxyphenyl]1-(3-methylphenyl)-1H-pyrazole with 2-methyl-1-butene, hydrogenation and ether cleavage gives the compound 5-{5-(2-methylbutyl)-2,4-dihydroxyphenyl}-1-(3-methylphenyl)-1H-pyrazole.

reactant | 5-[5-iodo-2,4-dimethoxyphenyl]1-(3-methylphenyl)-1H-pyrazole | IC=1C(=CC(=C(C1)C1=CC=NN1C1=CC(=CC=C1)C)OC)OC | C18H17IN2O2
reactant | 2-methyl-1-butene | CC(=C)CC | C5H10
reactant | ether | CCOCC | C4H10O
product | 5-{5-(2-methylbutyl)-2,4-dihydroxyphenyl}-1-(3-methylphenyl)-1H-pyrazole | CC(CC=1C(=CC(=C(C1)C1=CC=NN1C1=CC(=CC=C1)C)O)O)CC | C21H24N2O2
